US04469703
83.1 g (0.5 moles) of 3,4-dimethoxybenzaldehyde are suspended in 45.5 g (0.5 moles) of nitroethanol in the presence of 2.5 ml of triethylamine catalyst, and the mixture is stirred at 5° C. on an ice-water bath for 5.5 hours. 30 ml of chloroform are added to the reaction mixture in small portions within 5 hours. The mixture is allowed to stand for 12 hours under cooling and then acidified with 2 ml of acetic acid. The separated crystals are filtered off, washed with chloroform and ice-cold water and dried. 96.1 g (74.7%) of 1-(3,4-dimethoxyphenyl)-2-nitro-1,3-propanediol are obtained; m.p.: 134°-138° C.

reactant | 3,4-dimethoxybenzaldehyde | 0.5 moles, 83.1 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | nitroethanol | 0.5 moles, 45.5 g | [N+](=O)([O-])C(C)O | C2H5NO3
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
product | 1-(3,4-dimethoxyphenyl)-2-nitro-1,3-propanediol | 96.1 g, 74.7% | COC=1C=C(C=CC1OC)C(C(CO)[N+](=O)[O-])O | C11H15NO6
